US07208518B2
A suspension of methyl 3,7-dihydroxy-2-naphthoate (2.2 g; 10 mmole), benzylchloride (Merck) (1.26 mL; 11.0 mmole), potassium iodide (1.8 g; 11.0 mmole) and potassium carbonate (2.0 g; 15 mmole) in acetone (30 mL) was refluxed for 7 hours and then cooled to room temperature. The inorganic precipitate was filtered off and washed with acetone, whereas the filtrate was evaporated to dryness The solid residue was dissolved in ethyl acetate and the resulting solution was washed with 1M hydrochloric acid. After drying with sodium sulfate the organic layer was evaporated and the dry residue was recrystallized from methanol, whereat 1.2 g (39%) of methyl-7-benzyloxy-3-hydroxy-2-naphthoate were obtained.

reactant | methyl 3,7-dihydroxy-2-naphthoate | 10 mmole, 2.2 g | OC=1C(=CC2=CC(=CC=C2C1)O)C(=O)OC | C12H10O4
reactant | benzylchloride | 11.0 mmole, 1.26 mL | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium iodide | 11.0 mmole, 1.8 g | [I-].[K+]
reactant | potassium carbonate | 15 mmole, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | methyl-7-benzyloxy-3-hydroxy-2-naphthoate | 1.2 g, 39% | COC(=O)C1=CC2=CC(=CC=C2C=C1O)OCC1=CC=CC=C1 | C19H16O4
